US03983111
21-Chloro-5α-pregnane-3,11,20-trione
21-Hydroxy-5α-pregnane-3,11,20-trione (3.0 g.) in anhydrous pyridine (15 ml.) was treated with toluene-4-sulphonyl chloride (3.0 g.) and the pale orange solution was stirred at room temperature for 3 hours. The cold solution was vigorously stirred during the slow addition of ice-cold water (200 ml.) and hydrochloric acid (2N;50 ml.). The yellow crystalline precipitate was filtered off, washed well with water and dried in vacuo at 60°, and the resulting crude product (2.4 g.) was recrystallized from acetone/petrol to give crude title compound (1.13 g.) as an off-white crystalline solid, m.p. 168°-172°, [α]D + 137° (c 1.13).

reactant | 21-Hydroxy-5α-pregnane-3,11,20-trione | 3.0 g | OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H30O4
reactant | toluene-4-sulphonyl chloride | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 21-Chloro-5α-pregnane-3,11,20-trione | 1.13 g | ClCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H29ClO3
